US07662812B2
N-{4-[6-(8-Methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenyl}-benzamide free base (Compound F1)
To a stirred mixture of 4-[6-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenylamine (0.53 g, 1.66 mmol) and dichloromethane (20 ml) was added: benzoylchloride (0.35 g, 2.5 mmol) solved in dichloromethane (20 ml). The mixture was stirred at 0° C. for 2 hours and was then allowed to stir at room temperature for 15 hours. Aqueous sodium hydroxide (20 ml, 1 M) was added and the mixture was extracted with dichloromethane (3×30 ml). The mixture was dried and evaporated. Mp 88-96° C. LC-ESI-HRMS of [M+H]+ shows 424.2145 Da. Calc. 424.213735 Da, dev. 1.8 ppm.

reactant | 4-[6-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenylamine | 1.66 mmol, 0.53 g | CN1C2CN(CC1CC2)C2=CC=C(N=N2)C#CC2=CC=C(C=C2)N | C19H21N5
reactant | benzoylchloride | 2.5 mmol, 0.35 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 1 M, 20 ml | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-{4-[6-(8-Methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenyl}-benzamide | CN1C2CN(CC1CC2)C2=CC=C(N=N2)C#CC2=CC=C(C=C2)NC(C2=CC=CC=C2)=O | C26H25N5O
